US05476933
Preparation of 3-Methoxy-6-methyl-1H-1-benzazepine-2,5-dione (92).
To stirred, ice bath cold, concd H2SO4 (12 mL, Baker), there was added 2-methoxy-5-methylnaphthalene-1,4-dione (800 mg, 3.96 mmol) in portions. A deep red solution resulted. To this cold solution, NaN3 (515 mg, 7.92 mmol, Aldrich) was added in portions over one min. The ice bath was removed and the reaction was allowed to stir at rt for 18 h under N2. Nitrogen evolution was noted. The reaction was added to crushed ice (50 mL) to give a thick green suspension. This was diluted with H2O (30 mL) and vigorously stirred with 30% MeOH/70% CHCl3 (60 mL) until all the solid had dissolved. The layers were separated and the aqueous portion was extracted with 30% MeOH/70% CHCl3 (2×30 mL). The combined red organic portion was washed with water (1×30 mL), saturated NaHCO3 (1×30 mL) and brine (1×30 mL), filtered through cotton and the solvent removed in vacuo to give a red solid (800 mg). Crystallization from 95% EtOH (dissolved in 30 mL, hot filtered, concd to 20 mL, allowed to cool to rt then in an ice bath) a gave colorless fluffy needles (564 mg, 66%, pure by 1H NMR); mp 215.5° -217° C.; 1H NMR (DMSO-d6) δ2.32 (s, 3H), 3.71 (s, 3H), 6.32 (s, 1H), 7.08 (d, J=7.5 Hz, 1H), 7.15 (d, J=8.1 Hz, 1H), 7.36 (t, J=7.8 Hz, 1H), 11.00 (s, 1H); IR (KBr) 3195 (m), 3134 (m), δ3061 (m), 2999 (m), 2967 (m), 2939 (m), 1691 (s), 1649 (s), 1616 (s), 1212 (m), 834 (m), 783 (m); MS (m/z) 217 (M+, 100).

reactant | H2SO4 | 12 mL | OS(=O)(=O)O | H2O4S
reactant | 2-methoxy-5-methylnaphthalene-1,4-dione | 3.96 mmol, 800 mg | COC=1C(C2=CC=CC(=C2C(C1)=O)C)=O | C12H10O3
reactant | NaN3 | 7.92 mmol, 515 mg | [N-]=[N+]=[N-].[Na+]
reactant | MeOH | 60 mL | CO | CH4O
solvent | H2O | 30 mL | O | H2O
product | 3-Methoxy-6-methyl-1H-1-benzazepine-2,5-dione | 800 mg | COC=1C(NC2=C(C(C1)=O)C(=CC=C2)C)=O | C12H11NO3
